* F:\Users\Aaron\Documents\UAkron\2019-20\Phys Elec\Project 3\VoltageGainStageTest.asc
VCC N001 0 6
RB1 N001 N003 750
RB2 N003 N006 130
R§Meter OUT 0 10Meg
V§Signal IN 0 SINE(0 {vSIG} 261.626) Rser=50
C§DCB_Meter OUT N002 100µ
C§DCB_1 N003 IN 100µ
RE1 N004 N006 50
R1 N005 N006 25
C§DCB_3 N004 N005 100µ
RC1 N001 N002 300
Q1 N002 N003 N004 0 2N3904
R§OutputStage N002 0 10k
VEE 0 N006 6
.model NPN NPN
.model PNP PNP
.lib F:\Users\Aaron\Documents\LTspiceXVII\lib\cmp\standard.bjt
.step dec param vSIG 2.828m 565.6m 20
.tran 0 0.08791175 0.07644500 0.00382225
.meas TRAN vOUTrms RMS V(OUT)
.meas TRAN gain PP 0.5*V(OUT)/vSIG
.op
* INSTRUCTIONS--1-dB COMPRESSION POINT OF GAIN STAGE:\n-Replace gain-stage circuit with your own design.\n-Change output-stage resistance to the estimated value of the input \n resistance of your output stage.\n-Run simluation.\n-Open Error Log (View->SPICE Error Log)\n-Right-mouse-click on Error Log\n-Select "Plot .step'ed .meas data"\n-Right-mouse-click on Plot Window\n-Select "Add Plot Pane"\n-Right-mouse-click on lower plot pane\n-Select "Add Traces"\n-Left-mouse-click "gain"\n-Left-mouse-click OK\n-Right-mouse-click on plot title "gain" and change this statement\n to "20*log10(gain)"\n-Right-mouse-click on upper plot pane\n-Select "Add Traces"\n-Left-mouse-click "vOUTrms"\n-Left-mouse-click OK\n-Right-mouse-click on plot title "vOUTrms" and change this statement\n to "20*log10(vOUTrms/1m)"\n-Right-mouse-click on axes label "vSIG" and change this statement\n to "20*log10(vsig/(1m*sqrt(2)))"\n-To save these plot settings, select "Plot Settings-->Save Plot Settings"\n (you will need to close the plot window and open a new one after running \n another simultation; it does not automatically update)\n-Determine the input 1-dB compression point value of vSIG--where the gain\n deviates by 1-dB\n-Determine the correpsonding output 1-dB compression point value of \n 20*log10(vOUTrms/1m)"\n-Ensure that your output 1-dB compression point meets the specification.\n \nINSTRUCTIONS--TRANSIENT CURRENT CONSUMPTION:\n-Place cursor over output node of VCC.\n-Left-mouse click to plot I(VCC).\n-Left-mouee click on collector or drain node of a transistor to plot \n its transient collector current.\n-Ensure that the value does not exceed the current rating of transistor.\n \nINSTRUCTIONS--QUIESCENT CURRENT CONSUMPTION\n-Comment-out the .tran, .step, and .meas SPICE directives by \n hovering cursor over directive and right-mouse-clicking.\n If ".meas Statement Editor" window appears left-mouse-click "Cancel."\n-Run simulation.\n-A DC operating point window will appear; the value of I(Vcc) is your \n quiescent current consumption.\n \nADDITIONAL NOTE:\nTo place an additional voltage node label, right-mouse-click on a circuit node\nafter running simulation then left-mouse-click on "Place .op Data Labe" (sic).
* DESIGN STRATEGY:\n-Drop at least 30*VT across RE1 (such that RE1 >> re1)\n-Drop about 0.7V across base-to-emitter of Q1\n-Drop about (VCC-VEE)/3 across collector-to-base of Q1 (rule of thumb)\n-Adjust R1 for desired gain\n-Ensure design can drive input resistance of emitter follower stage (estimate: beta*RE2)
.backanno
.end
